US07612068B2
(S)-1-[2-(5-Chloro-2-iodo-phenoxy)-ethyl]-pyrrolidine-2-carboxylic acid tert-butyl ester
5-Chloro-2-iodophenol (801 mg, 3.15 mmol) and PPh3 (1.15 g, 4.41 mmol) were dissolved in THF (25 mL). DIAD (0.91 mL, 4.62 mmol). was added dropwise and the solution was stirred for 20 min. A solution of 1-(2-hydroxy-ethyl)-pyrrolidine-2-(S)-carboxylic acid tert butyl ester (816 mg, 3.79 mmol) in THF (4 mL) was added via canulation. The mixture was stirred for 40 min at 0° C. then for 1.5 h at room temperature and finally for 3 h at 50° C. The mixture was diluted with heptanes (100 mL), washed with water (4×25 mL), dried over Na2SO4 and evaporated onto silica gel. After flash chromatography using silica gel, eluting with heptanes/EtOAc, 9:1, the title compound was obtained as a colorless oil (1.023 g, 72%).

reactant | 5-Chloro-2-iodophenol | 3.15 mmol, 801 mg | ClC=1C=CC(=C(C1)O)I | C6H4ClIO
reactant | PPh3 | 4.41 mmol, 1.15 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 4.62 mmol, 0.91 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 1-(2-hydroxy-ethyl)-pyrrolidine-2-(S)-carboxylic acid tert butyl ester | 3.79 mmol, 816 mg | C(C)(C)(C)OC(=O)[C@H]1N(CCC1)CCO | C11H21NO3
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (S)-1-[2-(5-Chloro-2-iodo-phenoxy)-ethyl]-pyrrolidine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)[C@H]1N(CCC1)CCOC1=C(C=CC(=C1)Cl)I | C17H23ClINO3
